US04806535
A solution of 3-carbomethoxy-2-(4-fluorobenzoyl)pyridine (2.38 g, 9.18 mmol) in 7 ml of DMF is added dropwise to a mixture of NaH (0.25 g, 10.56 mmol) and imidazole (0.63 g, 9.18 mmol) in 25 mL of DMF. The mixture is heated at 120° C. for 20 hours, then allowed to cool, quenched with H2O and extracted with CH2Cl2 (4×50 mL). The combined organic layers are dried (Na2SO4) and evaporated to produce an oil. Chromatography on silica gel (using EtOAc-MeOH, 9.5:0.5 as the eluent) gives 2-[4-(1H-imidazol-1-yl)benzoyl]3-carbomethoxypyridine. M.P. 171°-173.5° C.

reactant | 3-carbomethoxy-2-(4-fluorobenzoyl)pyridine | 9.18 mmol, 2.38 g | C(=O)(OC)C=1C(=NC=CC1)C(C1=CC=C(C=C1)F)=O | C14H10FNO3
reactant | NaH | 10.56 mmol, 0.25 g | [H-].[Na+]
reactant | imidazole | 9.18 mmol, 0.63 g | N1C=NC=C1 | C3H4N2
reactant | EtOAc MeOH | CCOC(=O)C.CO
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 2-[4-(1H-imidazol-1-yl)benzoyl]3-carbomethoxypyridine | N1(C=NC=C1)C1=CC=C(C(=O)C2=NC=CC=C2C(=O)OC)C=C1 | C17H13N3O3
